US09023850B2
To a solution of 2-amino-5-bromopyrimidine (3.79 g, 21.8 mmol) in 1,2-dimethoxyethane (200 mL) was added dropwise bromopyruvic acid (3.63 g, 21.8 mmol). The reaction mixture was stirred for 30 minutes, and then heated to reflux and stirred for 18 hours. The reaction mixture was then cooled to room temperature and concentrated under reduced pressure to obtain a solid. This solid was suspended in diethyl ether, and the suspension was filtered to isolate 6-bromaoimidazo[1,2-a]pyrimidine-2-carboxylic acid hydrobromide and 6-bromoimidazo[1,2-a]pyrimidine-3-carboxylic acid hydrobromide as a 1:1 mixture. To this mixture of carboxylic acids (1.30 g, 5.37 mmol) was added a solution of 4-(dimethylamino)pyridine (1.966 g, 16.12 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.095 g, 16.12 mmol) in t-butanol (5 mL) and dichloromethane (15 mL). The reaction mixture was stirred for 5 minutes, 2-chloro-5-trifluoromethylbenzezenesulfonamide (1.394 g, 5.374 mmol) was added, and the reaction mixture was stirred at room temperature overnight. Dichloromethane (200 mL) was then added, the mixture was extracted with 1 N hydrochloric acid (1×100 mL), and the separated organic phase was dried over magnesium sulfate and concentrated under reduced pressure to afford a crude solid. The crude solid was purified by chromatography on silica gel eluting with a methanol/dichloromethane gradient to afford as the first eluting isomer 59.9 mg of the title compound, a compound of this invention, as a white solid, m.p.>250° C. 1H NMR (CDCl3) δ 10.10 (br s, 1H), 8.46 (s, 1H), 8.27 (s, 1H), 7.86 (d, 1H), 7.54 (s, 1H), 7.38 (d, 1H), 7.09 (dd, 1H), 3.91 (s, 3H).

reactant | 2-amino-5-bromopyrimidine | 21.8 mmol, 3.79 g | NC1=NC=C(C=N1)Br | C4H4BrN3
reactant | bromopyruvic acid | 21.8 mmol, 3.63 g | BrCC(C(=O)O)=O | C3H3BrO3
solvent | 1,2-dimethoxyethane | 200 mL | COCCOC | C4H10O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 6-bromoimidazo[1,2-a]pyrimidine-3-carboxylic acid hydrobromide | Br.BrC=1C=NC=2N(C1)C(=CN2)C(=O)O | InChI=1S/C7H4BrN3O2.BrH/c8-4-1-9-7-10-2-5(6(12)13)11(7)3-4;/h1-3H,(H,12,13);1H
